US06897208B2
A solution of 3-methyl-4-phenylpyrazole (1.00 g) in tert-butanol (15 ml) and water (25 ml), at 60° C., was treated portionwise potassium permanganate (5.47 g). The temperature was then slowly elevated to 90° C. and maintained at that temperature for 5 hours. The mixture was then cooled and filtered through a pad of celite. The filtrate was concentrated and the pH was adjusted to 10 to 14 by addition of 5N aqueous sodium hydroxide solution. This mixture was washed twice with ethyl acetate. The aqueous layer was then acidified to pH 3 to 5 and then extracted four times with ethyl acetate. The combined extracts were dried over magnesium sulfate and then evaporated to yield 4-phenyl-1H-pyrazole-3-carboxylic acid (0.512 g) as a white solid, which was used without further purification. MS:189 (M+H)+. HPLC (METHOD B): RT=2.48 minutes.

reactant | 3-methyl-4-phenylpyrazole | 1.00 g | CC1=NNC=C1C1=CC=CC=C1 | C10H10N2
reactant | potassium permanganate | 5.47 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 25 ml | O | H2O
solvent | tert-butanol | 15 ml | C(C)(C)(C)O | C4H10O
product | 4-phenyl-1H-pyrazole-3-carboxylic acid | 0.512 g | C1(=CC=CC=C1)C=1C(=NNC1)C(=O)O | C10H8N2O2
